US07951796B2
Na(Oac)3BH3 (171 mg, 0.80 mmol) were added to a solution of 3-(10,11-dihydro-dibenzo[b,f]azepine-5-yl)-propionaldehyde (100 mg, 0.40 mmol) and N-(3-cyanopropyl)-piperazine (122 mg, 0.80 mmol) in CH2Cl2 (10 ml). After 16 hours of stirring, the mixture was diluted with CH2Cl2 (50 ml) and washed with a saturated solution of NaHCO3. The organic phase was dried (Na2SO4) and evaporated. Purification using flash chromatography of the residue obtained yielded N-[3-(10,11-dihydro-dibenzo[b,f]azepine-5-yl)-propyl]-N′-(3-cyanopropyl)-piperazine (yield: 106 mg, 68%).

reactant | 3-(10,11-dihydro-dibenzo[b,f]azepine-5-yl)-propionaldehyde | 0.40 mmol, 100 mg | C1=CC=CC=2N(C3=C(CCC21)C=CC=C3)CCC=O | C17H17NO
reactant | N-(3-cyanopropyl)-piperazine | 0.80 mmol, 122 mg | C(#N)CCCN1CCNCC1 | C8H15N3
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | N-[3-(10,11-dihydro-dibenzo[b,f]azepine-5-yl)-propyl]-N′-(3-cyanopropyl)-piperazine | yield: 106 mg, 68% | C1=CC=CC=2N(C3=C(CCC21)C=CC=C3)CCCN3CCN(CC3)CCCC#N | C25H32N4
